US06544985B2
(RS)-[2-Dimethylamino-2′,3′-difluoro-5-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-biphenyl-4-yl]-carbamic acid tert.-butyl ester
The title compound was prepared from (5-amino-2-dimethylamino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example J3) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl ]-phenyl}-propionic acid tert-butyl ester (Example K5) according to the general procedure M. Obtained as a yellow solid (253 mg).

reactant | (5-amino-2-dimethylamino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C(=CC=C1)F)F)N(C)C)=O | C19H23F2N3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl ]-phenyl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[2-Dimethylamino-2′,3′-difluoro-5-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-biphenyl-4-yl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)C1=C(C(=CC=C1)F)F)N(C)C)=O | C36H40F2N6O6
